US05504089
1,1,1-Trifluoro-2-(5-phenylsulfonylbenzothiazol-2-yl)-propan-2-ol
To a stirred solution of 5-phenylsulfonylbenzothiazole (0.845 g) in dry tetrahydrofuran (50 mL) at -78° C. was added lithium diisopropylamide (3.5 mmol in 3 mL tetrahydrofuran) dropwise over approximately 10 minutes. A deep red solution formed. Trifluoroacetone (0.63 g) was added. After stirring for 20 minutes at -78° C., the reaction mixture was quenched with saturated ammonium chloride solution. The reaction mixture was then extracted with ether (75 mL and 25 mL) and dichloromethane (25 mL). The combined organic layers were dried, filtered and purified by chromatography, eluting with ethyl acetate:hexane (gradient of 10 to 30% ethyl acetate), to give the title compound as a white solid (0.558 g); m.p. 126.5°-128.5° C.; NMR: 8.62 (d,1), 8.43 (d,1), 8.01-8.07 (m,4), 7.60-7.70 (m,3), 1.84 (s,3); MS: m/z=388(M+1). Analysis for C16H 12 F3NO3S2 : Calculated: C,49.61; H,3.12; N, 3.62: Found: C, 49.43; H, 3.23; N, 3.56.

reactant | 5-phenylsulfonylbenzothiazole | 0.845 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC2=C(N=CS2)C1 | C13H9NO2S2
reactant | lithium diisopropylamide | 3.5 mmol, 3 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | Trifluoroacetone | 0.63 g | FC(C(C)=O)(F)F | C3H3F3O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,1,1-Trifluoro-2-(5-phenylsulfonylbenzothiazol-2-yl)-propan-2-ol | 0.558 g | FC(C(C)(O)C=1SC2=C(N1)C=C(C=C2)S(=O)(=O)C2=CC=CC=C2)(F)F | C16H12F3NO3S2
